US05807859
5H,10H-8--Nitroimidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one may be prepared in the following way: 1 g of potassium nitrate is added over 10 minutes, at a temperature in the region of 5° C., to a solution of 2.6 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride in 20 ml of concentrated sulphuric acid (d=1.83). The mixture is stirred for 30 minutes at the same temperature and for 3 hours at 25° C., then is poured onto 150 ml of ice-water. The crystals formed are isolated by filtration, washed with distilled water and then with acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 80° C. 2.1 g of 8-nitro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, decomposing without melting above 300° C. [NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): 4.23 (s, 2H: --CH2-- at 10); 7.68 and 8.12 (2 broad s, 1H each: --H of the imidazole); 8.07 (dd, J=8.5 Hz, 1H: --H6); 8.38 (dd, J=8.5 and 1.5 Hz, 1H: --H7; 8.50 (d, J=1.5 Hz, 1H: --H9); 12.64 (mult., 1H: --CONH--)].

reactant | potassium nitrate | 1 g | [N+](=O)([O-])[O-].[K+]
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 2.6 g | Cl.C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 8-nitro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2.1 g | [N+](=O)([O-])C1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | C13H8N4O3
